US06060459
Preparation of Lauroyl-2'-deoxyguanosine
This compound was prepared using the procedure for palmitoyl-2'-deoxyguanosine, substituting the appropriate amount of octanoyl chloride for palmitoyl chloride.

reactant | palmitoyl-2'-deoxyguanosine | C(CCCCCCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C26H43N5O5
reactant | octanoyl chloride | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | Lauroyl-2'-deoxyguanosine | C(CCCCCCCCCCC)(=O)[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)NC(N)=NC12 | C22H35N5O5
